Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea/vomiting, epigastric pain
 
Major Surgical or Invasive Procedure:
PICC line placement
 
History of Present Illness:
Pt is a ___ y/o G3P0021 at 14w3d who presented to the ED this 
morning with n/v and epigastric pain since 3am. Despite IVFs, 
ativan, morphine, and antiemetics, pt continued to report 
nausea, epigastric pain and was unable to tolerate any po 
intake.

On arrival to 6S, pt states her epigastric pain is better, but 
still there. She continues to report nausea and has vomited once 
since arrival. States her symptoms are similar to her last 
admission. She reports feeling tired, otherwise no complaints. 
She denies lower abdominal pain, vaginal bleeding, leaking of 
fluid, dysuria, fevers/chills, or diarrhea.

Per pt, she was doing well at home until this morning. She was 
tolerating food and fluids with usually only 2 episodes of 
vomiting/day. States she was only taking Reglan at home. States 
the protonix and zofran were not covered by her insurance, and 
she did not call anyone to try to get them covered. When asked 
about the Ativan, she says she was never given a prescription 
for this.

In the ED, pt received:
2 liters NS
Protonix 40mg IV x 1
Zofran 8mg IV x 1
Reglan 10mg IV x 1
morphine 4mg IV x 2
Ativan 1mg IV x 1
 
Past Medical History:
PRENATAL COURSE
*) ___ ___ by LMP (___) c/w 11wk U/S
*) Labs: O-/Ab-,GC/CT-,RPRnr,RI,HbsAg-,HIV-,Hbg electro pending
*) Screening: no ERA, planning QS
ISSUES
*) TSH 0.083 on ___ -> rpt (___) 0.3
*) hx Chlamydia in ___ tri, pt/partner treated, neg TOC (___)
*) hx GERD/gastritis:
- s/p admission ___ and ___
- ___ neg  
- ___ GI consult
- ___ US: GB sludge, no cholecystitis or gallstones  
- ___ abd/pelvis: no pathology  
- ___ -> c/w severe gastritis; nl biopsies
- home regimen: 
*) psych: panic/anxiety  
- s/p psych c/s (___): rec: ativan TID prn  
- social work following

OBHx:
G3P0
SAB x 2 requiring D&C
Current pregnancy

GynHx:
- denies history of abnormal paps or fibroids
- + Chlamydia (first trimester)

PMH:
GERD and gastritis

PSH: D&C x 2
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
GENERAL: appears tired, NAD; difficult to obtain more than 1 
word answers, pt with eyes closed through most of interview
weight: 190# on ___ (no other documented weights available)

VITALS:
- (in ED) T 96.4, HR 105, RR 14, O2 sat 95-100%
          BPs 138/78, 142/95, 139/88, 139/74
- (6S) T 97.6, BP 132/64, HR 76, RR 18

LUNGS: CTAB
HEART: RRR
ABDOMEN: +tenderness in epigastrium; no lower abd tenderness; 
nondistended
EXTREMITIES: no calf tenderness

radiology U/S: (prelim) +FH (152bpm)
 
Pertinent Results:
___ WBC-10.2 RBC-3.84 Hgb-11.7 Hct-35.5 MCV-92 Plt-364
___ WBC-13.8 RBC-3.71 Hgb-11.5 Hct-34.1 MCV-92 Plt-403
___ WBC-12.3 RBC-3.76 Hgb-11.7 Hct-35.5 MCV-94 Plt-344

___ Glu-109 UreaN-5 Cre-0.7 Na-138 K-3.8 Cl-105 HCO3-18
___ Glu-112 UreaN-4 Cre-0.6 Na-138 K-3.7 Cl-106 HCO3-20
___ Glu-89 UreaN-5 Cre-0.6 Na-138 K-3.5 Cl-104 HCO3-22
___ Glu-126 UreaN-7 Cre-0.6 Na-134 K-3.7 Cl-102 HCO3-23
___ Glu-85 UreaN-10 Creat-0.5 Na-136 K-3.6 Cl-104 HCO3-21
___ Glu-86 UreaN-9 Creat-0.5 Na-137 K-3.7 Cl-105 HCO3-20
___ Glu-96 UreaN-10 Creat-0.5 Na-138 K-3.9 Cl-106 HCO3-23

___ ALT-13 AST-24 AlkPhos-73 TotBili-0.3 Lipase-25
___ ALT-20 AST-19 Triglyc-116
___ Albumin-4.4 Calcium-9.5 Phos-2.4 Mg-1.8
___ Calcium-9.5 Phos-3.3 Mg-1.6 Lipase-39
___ Calcium-8.5 Phos-3.1 Mg-1.9
___ Calcium-8.9 Phos-3.5 Mg-2.0
___ Calcium-8.6 Phos-3.2 Mg-1.9

___ URINE Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-10 Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ URINE Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
 
Brief Hospital Course:
___ y/o G3P0020 admitted at 14w3d with nausea, vomiting, and 
epigastric pain.
.
Ms ___ was admitted for IV hydration, antiemetics, and 
electrolyte repletion. She was treated with IV protonix, Zofran, 
phenergan, benadryl, and Ativan. Similar to previous admissions, 
Ms ___ displayed poor coping abilities and was difficult to 
care for at times. Psychiatry was reconsulted and recommended 
continuing Ativan as needed and close outpatient followup with 
social services. Ms ___ continued to express some 
ambivalence about the pregnancy, and her options were discussed 
with her thoroughly. She ultimately decided to continue the 
pregnancy.
.
Given her continued inability to tolerate any po fluids or food 
and reported significant weight loss, the decision was made to 
proceed with a PICC line and TPN for nutritional support. Once 
TPN was initiated and cycled appropriately, ___ services were 
arranged and she was discharged home.
.
She will have close outpatient followup in high risk clinic.
 
Medications on Admission:
Reglan
 
Discharge Medications:
1. Protonix 40 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO every twelve (12) hours.
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
2. Zofran 4 mg Tablet Sig: One (1) Tablet PO every six (6) hours 
as needed for nausea.
Disp:*60 Tablet(s)* Refills:*2*
3. Protonix 40 mg Recon Soln Sig: One (1)  Intravenous twice a 
day.
Disp:*60 * Refills:*2*
4. promethazine 12.5 mg Tablet Sig: One (1) Tablet PO every six 
(6) hours as needed for nausea.
Disp:*60 Tablet(s)* Refills:*2*
5. Ativan 0.5 mg Tablet Sig: One (1) Tablet PO every four (4) 
hours as needed for nausea.
Disp:*20 Tablet(s)* Refills:*0*
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
pregnancy at 15 wks gestation
hyperemesis
gastritis
 
Discharge Condition:
stable
 
Discharge Instructions:
Continue taking your medications as prescribed.
A visiting nurse ___ meet you and give you all instructions for 
the TPN and IV medication. Although you have Protonix pills at 
home, you will be getting this through your IV so don't switch 
to the pills unless you are instructed to do so.
Call your doctors office ___ have any problems or questions 
regarding your medication.
 
Followup Instructions:
___